US09428499B2
Triethylsilane (27.0 ml, 169 mmol) was added dropwise to a suspension of N-cyclopropyl-2-(3-nitrophenoxy)acetamide (4 g, 16.93 mmol) and Pd/C (10%, 400 mg) in MeOH (50 ml). Resulting suspension was stirred at RT for 20 min. and filtered through celite. The filtrate was evaporated under vacuum and triturated in hexane to obtain the crystals which were collected by filtration to afford 2-(3-aminophenoxy)-N-cyclopropylacetamide (2.86 gm).

reactant | Triethylsilane | 169 mmol, 27.0 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | N-cyclopropyl-2-(3-nitrophenoxy)acetamide | 16.93 mmol, 4 g | C1(CC1)NC(COC1=CC(=CC=C1)[N+](=O)[O-])=O | C11H12N2O4
solvent | MeOH | 50 ml | CO | CH4O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | 2-(3-aminophenoxy)-N-cyclopropylacetamide | 2.86 gm | NC=1C=C(OCC(=O)NC2CC2)C=CC1 | C11H14N2O2
